US07687118B2
7.50 g (16.85 mmol) 4-pentoxyphenyl (2E)-3-{4-(6-chlorohexyloxy)phenyl}acrylate, 2.82 g (18.54 mmol) 3,5-diaminobenzoic acid and 0.62 g (1.69 mmol) tetrabutylammonium iodide were dissolved in 80 ml dimethylformamide. 3.00 ml (20.22 mmol) 1,8-diazabicyclo[5.4.0]undec-7-ene(1,5-5) (DBU) were added dropwise in the course of 10 minutes. The reaction temperature rose to 30° C. The mixture was then heated at 80° C. for 22 h. The reaction mixture was cooled and then partitioned between ethyl acetate and a saturated sodium bicarbonate solution; the organic phase was washed repeatedly with water, dried over sodium sulphate, filtered and concentrated by rotary evaporation. Chromatography of the residue on 1 kg silica gel using cyclohexane:ethyl acetate 1:1 as eluent yielded 6.6 g of 6-{4-[(1E)-3-(4-pentyloxyphenoxy)-3-oxoprop-1-enyl]phenoxy}hexyl 3,5 diamino-benzoate.

reactant | 4-pentoxyphenyl (2E)-3-{4-(6-chlorohexyloxy)phenyl}acrylate | 16.85 mmol, 7.50 g | ClCCCCCCOC1=CC=C(C=C1)/C=C/C(=O)OC1=CC=C(C=C1)OCCCCC | C26H33ClO4
reactant | 3,5-diaminobenzoic acid | 18.54 mmol, 2.82 g | NC=1C=C(C(=O)O)C=C(C1)N | C7H8N2O2
catalyst | tetrabutylammonium iodide | 1.69 mmol, 0.62 g | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
product | 6-{4-[(1E)-3-(4-pentyloxyphenoxy)-3-oxoprop-1-enyl]phenoxy}hexyl 3,5 diamino-benzoate | 6.6 g | NC=1C=C(C(=O)OCCCCCCOC2=CC=C(C=C2)\C=C\C(=O)OC2=CC=C(C=C2)OCCCCC)C=C(C1)N | C33H40N2O6
